US09255097B2
Preparation 15B: [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-4,5-dichloro-6-oxo-6H-pyrimidin-1-yl]-acetic acid methyl ester
To a solution of (2,4,5-trichloro-6-oxo-6H-pyrimidin-1-yl)-acetic acid methyl ester (6.0 g, 22.4 mmol) and piperidin-4-yl-carbamic acid tert-butyl ester (4.9 g, 24.4 mmol) in DMF (50 mL) was added DIPEA (5.7 g, 44.3 mmol) dropwise at RT, and the mixture was stirred overnight. The reaction mixture was diluted with water (500 mL), and the solids were collected by filtration. The solids were then dissolved in DCM (100 mL), washed with water (100 mL, 3×), washed with brine (100 mL), dried (Na2SO4) and concentrated. The residue was purified by silica chromatography (1:2 to 1:1, DCM:PE) to give 6.3 g of the title product (64%). 1H NMR (400 MHz, CDCl3): δ 1.22-1.34 (m, 2H), 1.45 (s, 9H), 1.97-2.03 (m, 2H), 2.96-3.09 (m, 2H), 3.68-3.69 (m, 1H), 3.75 (s, 3H), 4.42-4.44 (m, 3H), 4.84 (s, 2H). [M+H] Calc'd for C17H24Cl2N4O5, 435. Found, 435.

reactant | (2,4,5-trichloro-6-oxo-6H-pyrimidin-1-yl)-acetic acid methyl ester | 22.4 mmol, 6.0 g | COC(CN1C(=NC(=C(C1=O)Cl)Cl)Cl)=O | C7H5Cl3N2O3
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 24.4 mmol, 4.9 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | DIPEA | 44.3 mmol, 5.7 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-4,5-dichloro-6-oxo-6H-pyrimidin-1-yl]-acetic acid methyl ester | 6.3 g, 64% | COC(CN1C(=NC(=C(C1=O)Cl)Cl)N1CCC(CC1)NC(=O)OC(C)(C)C)=O | C17H24Cl2N4O5
